US04136248
5-Ethyl-2-Norbornene/1-Hexene Copolymer
50 ml dry toluene cosolvent, 7 ml 5-ethyl-2-norbornene, 0.8 ml 1-hexene solution, and 0.6 ml diethylaluminum iodide solution were charged to a dry, nitrogen-purged 7 oz. bottle. 0.75 ml of the MoCl5 solution was charged last, and the bottle was shaken. After 1 hour the reaction was shortstopped using a mixture of 0.8 ml ethanolamine, 3 ml Solution A and 25 ml toluene. 2 ml of an antioxidant solution was added (0.1 g/ml of 2,2'-methylenebis[4-methyl-6-t-butylphenol] in toluene). The polymer cement was coagulated using excess Solution A in a Waring blender. A solid weighing 5.9 grams was recovered after being filtered and vacuum dried at 60° C. It was found to be a ring-opened 5-ethyl-2-norbornene/1-hexene copolymer with a DSV of about 1.53.

reactant | 5-ethyl-2-norbornene | 7 ml | C(C)C1C2C=CC(C1)C2 | C9H14
reactant | 1-hexene | 0.8 ml | C=CCCCC | C6H12
reactant | diethylaluminum iodide | 0.6 ml | [I-].C(C)[Al+]CC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Ethyl-2-Norbornene 1-Hexene | C(C)C1C2C=CC(C1)C2.C=CCCCC | InChI=1S/C9H14.C6H12/c1-2-8-5-7-3-4-9(8)6-7;1-3-5-6-4-2/h3-4,7-9H,2,5-6H2,1H3;3H,1,4-6H2,2H3
